US08404859B2
Preparation of 5-(3-Hydroxy-benzylcarbamoyl)-3-isopropyl-thiophene-2-carboxylic acid methyl ester
To a solution of 3-Isopropyl-thiophene-2,5-dicarboxylic acid 2-methyl ester (110 mg, 0.48 mmol) in anhydrous DMF (5 mL) was added triethylamine (0.20 mL, 1.45 mmol), HBTU (0.27 g, 0.72 mmol), HOBT (78 mg, 0.58 mmol), and 3-Aminomethyl phenol (65 mg, 0.53 mmol). The mixture was stirred at room temperature 15 h, then quenched by pouring into EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by flash chromatography with 0-60% EtOAc in hexane to afford the desired product (0.070 g, 44% yield).

reactant | 3-Isopropyl-thiophene-2,5-dicarboxylic acid 2-methyl ester | 0.48 mmol, 110 mg | COC(=O)C=1SC(=CC1C(C)C)C(=O)O | C10H12O4S
reactant | triethylamine | 1.45 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.72 mmol, 0.27 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 0.58 mmol, 78 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-Aminomethyl phenol | 0.53 mmol, 65 mg | NCC=1C=C(C=CC1)O | C7H9NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(3-Hydroxy-benzylcarbamoyl)-3-isopropyl-thiophene-2-carboxylic acid methyl ester | 0.070 g, 44% yield | COC(=O)C=1SC(=CC1C(C)C)C(NCC1=CC(=CC=C1)O)=O | C17H19NO4S
